US06383986B1
2-(2-Amino-4-chloro-6-fluorobenzothiazol-7-yl)-3-chloro-5-trifluoromethylpyridine (Compound No. Ic.081)
At about 20° C., a solution of 37 g (234 mmol) of bromine in 10 ml of glacial acetic acid was added over a period of 10 minutes to a solution of 38 g (117 mmol) of 2-(3-amino-4-chloro-6-fluorophenyl)-3-chloro-5-trifluoromethylpyridine and 38 g (468 mmol) of sodium thiocyanate in 500 ml of glacial acetic acid. The reaction mixture was subsequently stirred at room temperature for 10 hours and then poured into 2 l of water. The product was then extracted with 3×500 ml of ethyl acetate. The combined organic phases were dried over magnesium sulfate and (finally concentrated. The crude product was purified by silica gel chromatography (eluent: cyclohexane/ethyl acetate =4:1→1:1). Yield: 13%; m.p.: 230-235° C.

reactant | bromine | 234 mmol, 37 g | BrBr | Br2
reactant | 2-(3-amino-4-chloro-6-fluorophenyl)-3-chloro-5-trifluoromethylpyridine | 117 mmol, 38 g | NC=1C=C(C(=CC1Cl)F)C1=NC=C(C=C1Cl)C(F)(F)F | C12H6Cl2F4N2
reactant | sodium thiocyanate | 468 mmol, 38 g | [S-]C#N.[Na+]
reactant | water | 2 l | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Amino-4-chloro-6-fluorobenzothiazol-7-yl)-3-chloro-5-trifluoromethylpyridine | Yield: 13% | NC=1SC2=C(N1)C(=CC(=C2C2=NC=C(C=C2Cl)C(F)(F)F)F)Cl | C13H5Cl2F4N3S
